# *** Parser/Internal circuit representation Test netlist ***
#
#
.model 2n222 diode (isat=3.fA area=2 cj0=1.5pF tt=.1ps)

cap:c1 1 gnd c=1pF 
res:r1 1 2 r=50.
res_t:rt1 1 gnd 1000 gnd r=100.
diode:d1 2 gnd model=2n222
diode:d2 2 3 isat=2fA cj0=1pF rs=100
mosekv:m1 2 3 4 gnd
bjt:q1 2 3 4
x1 2 3 4 LM741
x2 2 gnd 3 LM741
x3 2 gnd 3 testckt

tlinpy4:tline1 2 gnd 3 gnd 

.subckt LM741 in out gnd
res:r1 in out r=1kOhm
cap:c2 out gnd c=1nH
.ends

.include kk.net

.end
